US04522646
33 parts by weight of 2-nitrobenzoic acid, 40 parts by weight of 30% strength sodium methylate solution and 440 parts by weight of dimethylsulfoxide are stirred for 2 hours at 100° C. Thereafter, 49 parts by weight of 3,7-dichloro-8-chloromethylquinoline are introduced and the reaction mixture is stirred for a further 2 hours at 100° C. The solution is then cooled, water is added and the precipitated solid is filtered off under suction and recrystallized from toluene. 69 parts by weight (92% of theory) of 3,7-dichloro-8-[(2-nitrophenyl)-carbonyloxymethyl]-quinoline of melting point 152° C. are obtained.

reactant | 2-nitrobenzoic acid | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1 | C7H5NO4
reactant | sodium methylate | C[O-].[Na+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 3,7-dichloro-8-chloromethylquinoline | ClC=1C=NC2=C(C(=CC=C2C1)Cl)CCl | C10H6Cl3N
solvent | water | O | H2O
product | 3,7-dichloro-8-[(2-nitrophenyl)-carbonyloxymethyl]-quinoline | 92% | ClC=1C=NC2=C(C(=CC=C2C1)Cl)COC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C17H10Cl2N2O4
